US07728150B2
3-(3,5-difluoro-phenyl)-propionic acid
Hydrogenate a mixture of 3,5-difluorocinnamic acid (10.0 g, 54.3 mmol), 5% palladium on carbon (1.5 g), and concentrated sulfuric acid (10 ml) in tetrahydrofuran (195 ml) at 60 psi at room temperature overnight. After filtering the catalyst, dilute with ether, wash with water twice, dry over anhydrous sodium sulfate, and concentrate to obtain the title compound as clear colorless crystals (9.32 g, 92%). NMR (400 MHz, CDCl3): δ 2.67 (t, 2H), 2.94 (t, 2H), 6.65 (t, 1H), 6.74 (d, 2H).

reactant | 3,5-difluorocinnamic acid | 54.3 mmol, 10.0 g | FC=1C=C(C=CC(=O)O)C=C(C1)F | C9H6F2O2
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | tetrahydrofuran | 195 ml | O1CCCC1 | C4H8O
product | 3-(3,5-difluoro-phenyl)-propionic acid | 9.32 g, 92% | FC=1C=C(C=C(C1)F)CCC(=O)O | C9H8F2O2
